US04497963
Agitated in a reaction vessel are 256 parts of N,N'-bis(2,2-dimethyl-3-aminopropyl)piperazine with 400 parts of O-octyl carbamate and 130 parts of n-octanol at a reflux temperature of 190° C.-200° C. for 1 hour while the ammonia is removed by distillation. At that point, an additional 650 parts of n-octanol are allowed to flow into the reaction mixture and the reaction is continued at reflux temperature for 7 hours. Unreacted octanol and O-octylcarbonate are removed by distillation up to a sump temperature of 180° C.-200° C. at 2 millibars. By transcrystallization of the residue from acetone/water, 506 parts of N,N'-bis(octoxycarbonylaminoneopentyl)piperazine, C32H64N4O4 (molecular weight 568), are obtained corresponding with 89 percent of theory relative to N,N'-bis(2,2-dimethyl-3-aminopropyl)piperaxine. The melting point is 66° C.-68° C.

reactant | N,N'-bis(2,2-dimethyl-3-aminopropyl)piperazine | CC(CN1CCN(CC1)CC(CN)(C)C)(CN)C | C14H32N4
reactant | O-octyl carbamate | C(N)(OCCCCCCCC)=O | C9H19NO2
reactant | ammonia | N | H3N
solvent | n-octanol | C(CCCCCCC)O | C8H18O
product | N,N'-bis(octoxycarbonylaminoneopentyl)piperazine | C(CCCCCCC)OC(=O)NC(C(C)(C)C)N1CCN(CC1)C(C(C)(C)C)NC(=O)OCCCCCCCC | C32H64N4O4
